US09403818B2
Preparation of ethyl 8-(4-cyano-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Ethyl 8-(4-cyano-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from ethyl 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (151 mg, 0.47 mmol) and 4-cyano-phenyl-boronic acid (82 mg, 0.56 mmol). Purification by flash silica column chromatography (DCM:MeOH, 1:0 to 9:1) afforded the title compound as a yellow solid (189 mg, 100%).

reactant | ethyl 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.47 mmol, 151 mg | ClC=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O)F | C16H15ClFNO3
reactant | 4-cyano-phenyl-boronic acid | 0.56 mmol, 82 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | ethyl 8-(4-cyano-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 189 mg, 100% | C(#N)C1=CC=C(C=C1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O)F | C23H19FN2O3
